US06867221B2
Synthesis of 1-(tert-butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzoyl]amino]piperidine
4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine (613 mg) and 3-(3,4,5-trimethoxyphenyl)benzoic acid (577 mg) were condensed in the same manner as described in Example 1 to give the title compound.

reactant | 4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 613 mg | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzoic acid | 577 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)O)C=CC1 | C16H16O5
product | 1-(tert-butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzoyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=C(C=C1)OC | C33H40N2O7
